US04511573
A mixture of 10.32 g of phenylhydrazine hydrochloride and 16.8 g of 7-nicotinoylheptanoic acid in 750 ml of ethanol is heated at refux temperature for 6 hours. After cooling with an ice-water bath, 250 ml of ca 2N ethanolic hydrogen chloride is added and the mixture heated at reflux for 16 hours. The mixture is filtered and the filtrate is concentrated under reduced pressure. The crude product is triturated with petroleum ether and recrystallized from ethanol-ether to yield 2-(3-pyridyl)-3-[5-(ethoxycarbonyl)-pentyl]-indole hydrochloride, m.p. 145°-150°.

reactant | phenylhydrazine hydrochloride | 10.32 g | Cl.C1(=CC=CC=C1)NN
reactant | 7-nicotinoylheptanoic acid | 16.8 g | C(C1=CN=CC=C1)(=O)CCCCCCC(=O)O | C13H17NO3
reactant | hydrogen chloride | ca 2N, 250 ml | Cl | ClH
reactant | ethanol | 750 ml | C(C)O | C2H6O
product | 2-(3-pyridyl)-3-[5-(ethoxycarbonyl)-pentyl]-indole hydrochloride | Cl.N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1CCCCCC(=O)OCC | InChI=1S/C21H24N2O2.ClH/c1-2-25-20(24)13-5-3-4-11-18-17-10-6-7-12-19(17)23-21(18)16-9-8-14-22-15-16;/h6-10,12,14-15,23H,2-5,11,13H2,1H3;1H
